US09107413B2
Step 1. (E)-Methyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbodithioate
To a 250 mL round-bottom flask containing hydrazinecarbodithioic acid methyl ester (2.38 g, 1.95 mmol) in EtOH (100 mL) was added 4-[1-(4-trifluoromethoxyphenyl)-1H-[1,2,4]triazol-3-yl]-benzaldehyde (5.00 g, 1.50 mmol). The vessel was heated at 80° C. for 3 h before being diluted with H2O (300 mL) and cooled to 0° C. The precipitated product was collected by vacuum filtration as an off-white solid (6.13 g, 93%): mp 204-206° C.; 1H NMR (400 MHz, DMSO-d6) δ 13.39 (s, 1H), 9.43 (s, 1H), 8.38 (s, 1H), 8.21 (d, J=8.3 Hz, 2H), 8.09 (d, J=8.4 Hz, 2H), 7.88 (d, J=8.4 Hz, 2H), 7.62 (d, J=8.3 Hz, 2H), 2.57 (s, 3H); ESIMS m/z 438 (M+H).

reactant | hydrazinecarbodithioic acid methyl ester | 1.95 mmol, 2.38 g | CSC(=S)NN | C2H6N2S2
reactant | 4-[1-(4-trifluoromethoxyphenyl)-1H-[1,2,4]triazol-3-yl]-benzaldehyde | 1.50 mmol, 5.00 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)(F)F | C16H10F3N3O2
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | H2O | 300 mL | O | H2O
product | (E)-Methyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbodithioate | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(\C=N\NC(=S)SC)C=C1)(F)F | C18H14F3N5OS2
